US04067724
21.4 g (0.1 mol) of 4-amino-6-tert.-butyl-3-methylthio-1,2,4-triazin-5-one and 10.1 g (0.11 mol) of glyoxylic acid monohydrate were stirred in 250 ml of ethyl acetate for 12 hours at room temperature, whereby a clear solution was produced. The mixture was then left to stand; after about 3 hours, the product began to crystallize out. It was filtered off and the filtrate was concentrated, whereupon further material crystallized out. The combined filter residues were washed with ether and dried. 25.2 g (87.5% of theory) of N-(3-methylthio-6-tert.-butyl-1,2,4-triazin-5-on-4-yl)- α-hydroxy-glycine of melting point 161° C (decomposition) were obtained.

reactant | 4-amino-6-tert.-butyl-3-methylthio-1,2,4-triazin-5-one | 0.1 mol, 21.4 g | NN1C(=NN=C(C1=O)C(C)(C)C)SC | C8H14N4OS
reactant | glyoxylic acid monohydrate | 0.11 mol, 10.1 g | O.C(C=O)(=O)O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-methylthio-6-tert.-butyl-1,2,4-triazin-5-on-4-yl)- α-hydroxy-glycine | 25.2 g, 87.5% | CSC1=NN=C(C(N1NC(C(=O)O)O)=O)C(C)(C)C | C10H16N4O4S
